US07378409B2
Tert-butyl(1R,3S,4S)-4-amino-3-isopropylcyclohexylcarbamate (780 mg) dissolved in DMF (10 mL) and cooled to 0° C. prior to the addition of N-Cbz-Gly-OH (1.14 g), 4-methylmorpholine (1.2 mL), and BOP (2.42 g). The reaction was stirred for 12 h at rt and then partitioned between EtOAc and 1N HCl solution. The organic phases were combined, washed with saturated NaHCO3 and brine, dried (MgSO4), filtered, and concentrated in vacuo. The residue was purified by flash chromatography to afford tert-butyl (1R,3S,4S)-4-(2-benzyloxycarbonylaminoacetamido)-3-isopropylcyclohexylcarbamate (790 mg). MS found: (M+H)+=448.4.

reactant | Tert-butyl(1R,3S,4S)-4-amino-3-isopropylcyclohexylcarbamate | 780 mg | N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)C(C)C | C14H28N2O2
reactant | N-Cbz-Gly-OH | 1.14 g | N(CC(=O)O)C(=O)OCC1=CC=CC=C1 | C10H11NO4
reactant | 4-methylmorpholine | 1.2 mL | CN1CCOCC1 | C5H11NO
reactant | BOP | 2.42 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl (1R,3S,4S)-4-(2-benzyloxycarbonylaminoacetamido)-3-isopropylcyclohexylcarbamate | 790 mg | C(C1=CC=CC=C1)OC(=O)NCC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)C(C)C | C24H37N3O5
